US07119122B2
2,3-Difluoro-4-methylbenzonitrile (0.21 g, 1.4 mmol), 3-hydroxy-2-methoxybenzaldehyde (0.21 g, 1.4 mmol) and cesium carbonate (0.45 g, 1.4 mmol) were heated with stirring in dry DMF (4 mL) at 50° C. for 18 h. The reaction mixture was cooled, poured into 0.1N sodium hydroxide-solution and extracted with diethyl ether. The ether layer was separated, washed with 0.1N sodium hydroxide solution (2×), water (3×), brine (1×), and dried over MgSO4. After filtration, the solvent was removed in vacuo, and purified by chromatography to yield 3-fluoro-2-(3-formyl-2-methoxyphenoxy)-4-methylbenzonitrile (0.12 g, 31%) as a colourless glass.

reactant | 2,3-Difluoro-4-methylbenzonitrile | 1.4 mmol, 0.21 g | FC1=C(C#N)C=CC(=C1F)C | C8H5F2N
reactant | 3-hydroxy-2-methoxybenzaldehyde | 1.4 mmol, 0.21 g | OC=1C(=C(C=O)C=CC1)OC | C8H8O3
reactant | cesium carbonate | 1.4 mmol, 0.45 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium hydroxide | 0.1N | [OH-].[Na+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 3-fluoro-2-(3-formyl-2-methoxyphenoxy)-4-methylbenzonitrile | 0.12 g, 31% | FC=1C(=C(C#N)C=CC1C)OC1=C(C(=CC=C1)C=O)OC | C16H12FNO3
